US09399651B2
To a solution of 4-oxo-6-phenyl-4H-pyran-3-yl acetate (100 mg, 0.4 mmol) in MeOH (10.9 mL) is added K2CO3 (180 mg, 1.3 mmol) and the reaction was stirred for 15 min at room temperature. The reaction mixture was concentrated under reduced pressure to provide 5-hydroxy-2-phenyl-4H-pyran-4-one which was used in the subsequent step without further purification.

reactant | 4-oxo-6-phenyl-4H-pyran-3-yl acetate | 0.4 mmol, 100 mg | C(C)(=O)OC1=COC(=CC1=O)C1=CC=CC=C1 | C13H10O4
reactant | K2CO3 | 1.3 mmol, 180 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 10.9 mL | CO | CH4O
product | 5-hydroxy-2-phenyl-4H-pyran-4-one | OC=1C(C=C(OC1)C1=CC=CC=C1)=O | C11H8O3
